US04652573
D. (2-Isoindolinyl)ethyl acetoacetate
A solution of 4.67 g (0.029 mol) of 2-(2-hydroxyethyl) isoindoline and 3.72 g (0.029 mol) of ethyl acetoacetate was heated at 100°-110° C. under nitrogen for 36 hours. Ethanol was removed with nitrogen flow during the course of the reaction. The mixture was subjected to flash chromatography (silica gel, 1:1 ethylacetate/petroleum ether) to give 1.54 g (22%) of a dark oil. NMR (CDCl3) δ 2.2 (3H, s), 2.94 (2H, t), 3.4 (2H, s). 3.9 (4H, s), 4.24 (2H, t), 7.04 (4H, s).

reactant | 2-(2-hydroxyethyl) isoindoline | 0.029 mol, 4.67 g | OCCN1CC2=CC=CC=C2C1 | C10H13NO
reactant | ethyl acetoacetate | 0.029 mol, 3.72 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | (2-Isoindolinyl)ethyl acetoacetate | 1.54 g, 22% | C(CC(=O)C)(=O)OCCN1CC2=CC=CC=C2C1 | C14H17NO3
